US07279580B2
3-Bromo-8-fluoro-7-trifluoromethylimidazo[1,2-α]pyridine was coupled to 2-(2,4′-difluoro-2′-methanesulfonylbiphenyl-5-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane as described in Example 1 to give 3-(2,4′-difluoro-2′-methanesulfonylbiphenyl-5-yl)-8-fluoro-7-trifluoromethylimidazo[1,2-α]pyridine as a white solid (147 mg, 42%): δH (400 MHz, CDCl3) 2.91 (3H, s), 6.99 (1H, dd, J 7 and 6), 7.35-7.47 (3H, m), 7.61-7.65 (2H, m), 7.85 (1H, s), 7.98-8.01 (1H, m), 8.48 (11H, d, J 7); m/z (ES+) 471 [MH+].

reactant | 3-Bromo-8-fluoro-7-trifluoromethylimidazo[1,2-α]pyridine | BrC1=CN=C2N1C=CC(=C2F)C(F)(F)F | C8H3BrF4N2
reactant | 2-(2,4′-difluoro-2′-methanesulfonylbiphenyl-5-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=C(C=C(C=C1)F)S(=O)(=O)C | C19H21BF2O4S
product | 3-(2,4′-difluoro-2′-methanesulfonylbiphenyl-5-yl)-8-fluoro-7-trifluoromethylimidazo[1,2-α]pyridine | 147 mg, 42% | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2F)C(F)(F)F)C2=C(C=C(C=C2)F)S(=O)(=O)C | C21H12F6N2O2S
